US07462611B2
(b)′: N-(4-Amino-phenyl)-methanesulfonamide
5% Palladium on carbon (“wet”, 11.1 g) was added to a solution of N-(4-nitro-phenyl)-methanesulfonamide (Example 3a′, 111.4 g, 0.52 mol) in tetrahydrofuran (900 mL) at 25° C. The atmosphere above the resulting suspension was replaced with hydrogen gas and the reaction mixture was maintained under 1 atmosphere of hydrogen at 25° C. for 4 days using several balloons. The mixture was then filtered through Celite and the Celite was washed with tetrahydrofuran (3×100 mL). The combined filtrate and washings were concentrated in vacuo to approximately 300 mL volume and heptane (500 mL) was added dropwise via addition funnel over 45 min at 25° C. with vigorous stirring. The resulting suspension was stirred for an additional 45 min at 25° C., and then was filtered through medium paper using a Büchner funnel. The collected solid was washed with heptane (1×150 mL) and was air-dried to afford the desired product, N-(4-amino-phenyl)-methanesulfonamide (90.7 g, 0.49 mol, 95% yield) as a beige powder. 1H NMR (400 MHz, DMSO-d6) δ 2.79 (3H, s), 5.00 (2H, s), 6.49 (2H, d, J=8.5 Hz), 6.87 (2H, d, J=8.6 Hz), 8.87 (1H, s).

reactant | N-(4-nitro-phenyl)-methanesulfonamide | [N+](=O)([O-])C1=CC=C(C=C1)NS(=O)(=O)C | C7H8N2O4S
reactant | hydrogen | [H][H] | H2
catalyst | Palladium on carbon | 11.1 g | [Pd] | Pd
solvent | tetrahydrofuran | 900 mL | O1CCCC1 | C4H8O
product | N-(4-amino-phenyl)-methanesulfonamide | 0.49 mol, 90.7 g, 95% yield | NC1=CC=C(C=C1)NS(=O)(=O)C | C7H10N2O2S
